US06455507B1
2-Bromo-5-chloro-1-beta-D-ribopyranosyl-1H-benzimidazole
2-Bromo-5-chloro-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole (0.15 g, 0.31 mmol) was deprotected as outlined in General Procedure V by being dissolved in 5 ml dioxane at rt. To this solution was added all at once, 1.2 ml (1.2 mmol) of 1M aq. LiOH. The mixture stirred at ambient temperature for 0.25 h. The mixture was diluted with 15 ml of pH 7 phosphate buffer and extracted with ethyl acetate. The ethyl acetate layer was dried over magnesium sulfate (anhyd.), filtered and solvents evaporated. The residue was triturated in dichloromethane and 2-bromo-5-chloro-1-beta-D-ribopyranosyl-1H-benzimidazole was collected by vacuum filtration. The product was dried in a vacuum oven at 50° C. (0.041 g , 0.11 mmol 37%); m.p. 120° C. (foams), 150° C. (decomposes); 1H NMR (DMSO-d6) δ7.70-7.67 (m,2H), 7.24-7.22 (d, 1H, J=8.7 Hz), 5.64-5.61 (d, 1H,J=9.2 Hz), 5.16 (bs, 1H), 4.07-4.05 (overlapping dd, 1H), 3.98 (bs, 1H), 3.87-3.66 (m, 1H), 3.68-3.66 (d, 2H,J=8.5 Hz).

reactant | 2-Bromo-5-chloro-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 0.31 mmol, 0.15 g | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=CC(=C2)Cl | C18H18BrClN2O7
reactant | LiOH | 1.2 mmol, 1M, 1.2 ml | [Li+].[OH-]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | phosphate | 15 ml, pH 7 | P(=O)([O-])([O-])[O-]
product | 2-Bromo-5-chloro-1-beta-D-ribopyranosyl-1H-benzimidazole | BrC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O)CO1)C=CC(=C2)Cl | C12H12BrClN2O4
